US08283354B2
Isatoic anhydride (40 g, 245 mmol) was suspended in 650 mL 1 N NH4OH (2.5 equiv) and stirred at room temperature for 3 days. The precipitate was filtered and washed with water. The product was then dissolved in THF, filtered, and concentrated to dryness. The product was dried by azeotropic distillation with toluene and washed with CH2Cl2 to yield 10.9 g (32.7%) of 2-amino-benzamide.

reactant | Isatoic anhydride | 245 mmol, 40 g | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
reactant | NH4OH | 1 N, 650 mL, 2.5 equiv | [NH4+].[OH-]
product | 2-amino-benzamide | 10.9 g, 32.7% | NC1=C(C(=O)N)C=CC=C1 | C7H8N2O
